US07122580B2
To a solution of 5-chloro-2-(3,5-dimethyl-piperidin-1-yl)-benzonitrile (1.05 g, 4.220 mmol) in Diethylene glycol monomethyl ether (2.50 mL) was added KOH (0.947 g, 16.883 mmol) and water (0.750 ml). The reaction was heated at 130–135° C. overnight. Upon cooling to rt, water and ethyl acetate was added the organic layer was discarded and the aqueous layer is acidified to pH˜6–7. The aqueous layer was then extracted with ethyl acetate three times. The combined organic layer was washed with water, brine, dried (Na2SO4), and concentrated to give required 5-chloro-2-(3,5-dimethyl-piperidin-1-yl)-benzoic acid (0.850 g, 75%) as an off white solid. LCMS 268(M+1)+.

reactant | 5-chloro-2-(3,5-dimethyl-piperidin-1-yl)-benzonitrile | 4.220 mmol, 1.05 g | ClC=1C=CC(=C(C#N)C1)N1CC(CC(C1)C)C | C14H17ClN2
reactant | KOH | 16.883 mmol, 0.947 g | [OH-].[K+]
reactant | water | 0.750 ml | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Diethylene glycol monomethyl ether | 2.50 mL | COCCOCCO | C5H12O3
product | 5-chloro-2-(3,5-dimethyl-piperidin-1-yl)-benzoic acid | 0.850 g, 75% | ClC=1C=CC(=C(C(=O)O)C1)N1CC(CC(C1)C)C | C14H18ClNO2
